US07939526B2
A heterogeneous mixture of 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclopropanol (0.76 g, 2.6 mmol) and methyl vinyl sulfone (0.54 g, 5.11 mmol) in DMF (10 mL) was heated until a solution formed. Sodium hydride (60% dispersion in oil, 10 mg, 0.26 mmol) was added and the reaction mixture was stirred at room temperature for 1 hour. Water (50 mL) and a small amount of brine were added and the mixture was extracted with ethyl acetate (3×50 mL). The organic layers were combined, washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford an oil that was purified by flash chromatography (silica gel, eluted with 5% methanol in dichloromethane) to provide 0.75 g of 2-(ethoxymethyl)-1-({1-[2-(methylsulfonyl)ethoxy]cyclopropyl}methyl)-1H-imidazo[4,5-c]quinoline as a tan oil.

reactant | 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclopropanol | 2.6 mmol, 0.76 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CC1)O | C17H19N3O2
reactant | methyl vinyl sulfone | 5.11 mmol, 0.54 g | C(=C)S(=O)(=O)C | C3H6O2S
reactant | Sodium hydride | 0.26 mmol, 10 mg | [H-].[Na+]
reactant | Water | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 2-(ethoxymethyl)-1-({1-[2-(methylsulfonyl)ethoxy]cyclopropyl}methyl)-1H-imidazo[4,5-c]quinoline | 0.75 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CC1)OCCS(=O)(=O)C | C20H25N3O4S
